US03976638
b. 16α-Benzoyl-9-fluoro-11β-hydroxypregn-4-ene-3,20-dione
1-Phenyl-1-tetrahydropyranyloxyacetonitrile (1.3 g.) is added to a suspension of 57% sodium hydride-paraffin (275 mg.) in dry dimethylsulfoxide (20 ml.) in a nitrogen atmosphere. The mixture is stirred at room temperature for 90 minutes to yield a homogeneous solution of the anion. To the anion is added a solution of 9-fluoro-11β-hydroxypregna-4,16-diene-3,20-dione (1.04 g.) in dry dimethylsulfoxide. After 30 minutes, the mixture is poured into water and extracted with ethyl acetate. The extracts are combined, washed with water, dried over magnesium sulfate and evaporated to afford 2.55g. of a gum. This is dissolved in methanol (25 ml.), conc. hydrochloric acid (2 drops) is added and the solution is maintained in a bath at 55°-60°C for 5.0 hours. The methanol is evaporated in vacuo, the residue is dissolved in ethyl acetate, washed with a diluted sodium bicarbonate solution and water, dried over magnesium sulfate and evaporated to afford the crude product as a gum. This is absorbed on a dry column of silica gel (40 g.) and the column is eluted successively with chloroform, ethyl acetate-chloroform (1:9) and ethyl acetate. Crystallization of the material (1.1 g.) eluted with ethyl acetate-chloroform from acetone-hexane affords the analytical specimen (690 mg.), melting point 250° -252°C, dec.

reactant | 9-fluoro-11β-hydroxypregna-4,16-diene-3,20-dione | 1.04 g | F[C@@]12[C@]3(CCC(C=C3CC[C@H]1[C@@H]1CC=C(C(C)=O)[C@]1(C[C@@H]2O)C)=O)C | C21H27FO3
reactant | water | O | H2O
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | methanol | 25 ml | CO | CH4O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
product | 16α-Benzoyl-9-fluoro-11β-hydroxypregn-4-ene-3,20-dione | C(C1=CC=CC=C1)(=O)[C@H]1[C@H](C(C)=O)[C@]2(C[C@@H]([C@@]3([C@]4(CCC(C=C4CC[C@H]3[C@@H]2C1)=O)C)F)O)C | C28H33FO4
